US07691892B2
a) Ethyl 4-{[2-(3-chlorophenyl)-2H-tetrazol-5-yl]methyl}piperazine-1-carboxylate
2-(3-Chloro-phenyl)-2H-tetrazole-5-carbaldehyde (22.3 mg, 0.107 mmol) was dissolved in 1,2-dichloroethane under argon and ethyl-1-piperazine carboxylate (16.4 uL, 0.112 mmol) was added followed by sodium triacetoxy borohydride (31.8 mg, 0.150 mmol). The reaction was allowed to stir overnight. Ethyl acetate was added and the solution was washed with sodium bicarbonate (sat.), brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography using 45% EtOAc/Hexanes and 100% EtOAc to yield the title compound as a white solid (17.4 mg, 46%). 1H NMR (CDCl3) δ (ppm): 8.190 (s, 1H); 8.070 (m, 1H); 7.469 (m, 2H); 4.139 (q, 2H); 3.983 (s, 2H); 3.541 (m, 4H); 2.604 (m, 4H); 1.263 (t, 3H).

reactant | 2-(3-Chloro-phenyl)-2H-tetrazole-5-carbaldehyde | 0.107 mmol, 22.3 mg | ClC=1C=C(C=CC1)N1N=C(N=N1)C=O | C8H5ClN4O
reactant | ethyl-1-piperazine carboxylate | 0.112 mmol, 16.4 uL | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | sodium triacetoxy borohydride | 0.150 mmol, 31.8 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | Ethyl 4-{[2-(3-chlorophenyl)-2H-tetrazol-5-yl]methyl}piperazine-1-carboxylate | 17.4 mg, 46% | ClC=1C=C(C=CC1)N1N=C(N=N1)CN1CCN(CC1)C(=O)OCC | C15H19ClN6O2
